US05602246
Example 9b: 2-Fluoroadenosine
2-Fluoro-2',3',5'-tri-O-acetyladenosine (0.41 g, 10 mmol) was dissolved in a mixture of 1,4-dioxane (7 mL) and water (2 mL) and the solution was cooled in an ice-water bath. 2.5 M NaOH (1.40 mL, 3.5 mmol) was added dropwise with vigorous stirring over a 2 min. period. The resulting bright yellow solution was stirred at 0° C. and monitored by TLC (9:1 Chloroform:methanol). After 2 hours, most of the yellow color had faded and TLC showed no acetylated intermediates remaining. The homogeneous reaction mixture was poured directly onto a column of AG 50-X4 (H+, 100-200 mesh, 10 mL bed volume) ion exchange resin and the column was eluted with several column volumes of 1:1 methanol:water. 2-Fluoroadenosine began to elute immediately, and all fractions which contained 2-fluoroadenosine were concentrated under vacuum to obtain a white partially crystalline solid which was dried overnight at 60° C. under vacuum: 0.20 g (70% yield), mp 220°-227° C. (d). This material was consistent by TLC, IR and UV with an authentic sample of 2-fluoroadenosine.

reactant | 2-Fluoro-2',3',5'-tri-O-acetyladenosine | 10 mmol, 0.41 g | FC=1N=C(C=2N=CN([C@H]3[C@H](OC(C)=O)[C@H](OC(C)=O)[C@@H](COC(C)=O)O3)C2N1)N | C16H18FN5O7
reactant | NaOH | 3.5 mmol, 2.5 M, 1.40 mL | [OH-].[Na+]
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | methanol | CO | CH4O
solvent | 1,4-dioxane | 7 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
product | 2-Fluoroadenosine | FC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12FN5O4
